US08030305B2
6-(6-Imidazol-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
A mixture of 6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline, imidazole, and potassium carbonate were stirred in DMF (3 mL) for 8 h at 100° C. Aqueous HCl (0.5 N) was added and the volatiles were removed in vacuo. Purification by HPLC (5-35% B over 45 min) yielded the product as a TFA salt. The residue was dissolved in aq 1N HCl (5 mL) and the volatiles removed in vacuo. After two repetitions, the product-dihydrochloride was dried under high vacuum to yield a glassy solid (53 mg, 44% yield). 1H-NMR (CD3OD): δ 9.60 (1H, s), 9.17 (1H, dd, J=1.5, 5.3 Hz), 9.10 (1H, m), 8.58 (1H, d, J=9.9 Hz), 8.38 (1H, m), 8.36 (1H, m), 8.27 (1H, m), 8.23 (1H, m), 8.05 (1H, dd, J=5.3, 8.3 Hz), 7.98 (1H, d, J=9.9 Hz), 7.72 (1H, s), 5.12 (2H, s), 4.98 (2H, m). ESI-MS (m/z): Calcd. for C18H13N7: 327.1; found: 328.3 (M+H).

reactant | 6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C15H10ClN5
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 0.5 N | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(6-Imidazol-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | N1(C=NC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C18H13N7
